Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Iodine-Iodine Containing / Shellfish / Lactose-Free Food / 
lisinopril
 
Attending: ___
 
Chief Complaint:
Pelvic pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo G0 with h/o CHF, HTN s/p TLH in ___ presenting to
ED with acute right lower quadrant pain that started last night.
Pain came on gradually, felt like cramping, around 2300. She was
able to fall asleep and then woke up with a more intense achey
dull pain in her right lower quadrant ___. Took tylenol without
relief. Pain is connstant but with some aggravation with certain
positions. Denies fever, chills. Some nausea, no vomiting. Had
multiple episodes of diarrhea yesterday, has resolved. Thinks
this was related to some food that she ate. Max T at home was
99.3. 
.
Has been followed for right ovarian cyst. Was supposed to start
progestin only pill for suppresion, has filled rx but has not
started.
 
Past Medical History:
GYN Hx: 
- open myomectomy x 2, hysteroscopic myomectomy, total
laparoscopic hysterectomy with extensive LOA for fibroid uterus
___
- remote h/o chlamydia, PID
- condyloma
- vulvar ___
- admission ___ for pelvic abscess s/p IV abx, did not require
drainage

PMH: idiopathic dilated cardiomyopathy, hypertension, anemia,
asthma, eczema

PSH: TLH ___, open MMY x 2, hysteoscopy MMY, lumpectomy
 
Social History:
___
Family History:
CHF of unknown etiology in several immediate family members, 
also IDDM, CAD. 
 
Physical Exam:
Discharge Physical Exam
Afebrile, VSS
NAD, comfortable
Abdomen soft, non-tender, no rebound/guarding
Lower extremities non-erythematous, no swelling
 
Pertinent Results:
___ 03:10PM BLOOD WBC-18.3*# RBC-4.02* Hgb-13.2 Hct-37.4 
MCV-93 MCH-32.9* MCHC-35.4* RDW-14.5 Plt ___
___ 03:10PM BLOOD Neuts-89.9* Lymphs-6.2* Monos-2.9 Eos-0.9 
Baso-0.2
___ 06:05AM BLOOD WBC-17.9* RBC-3.56* Hgb-11.8* Hct-33.4* 
MCV-94 MCH-33.1* MCHC-35.2* RDW-14.3 Plt ___
___ 06:05AM BLOOD Neuts-82.6* Lymphs-10.8* Monos-4.4 
Eos-1.9 Baso-0.4
___ 06:10AM BLOOD WBC-13.3* RBC-3.60* Hgb-11.6* Hct-33.5* 
MCV-93 MCH-32.3* MCHC-34.7 RDW-14.2 Plt ___
___ 06:10AM BLOOD Neuts-80.9* Lymphs-12.7* Monos-4.0 
Eos-1.9 Baso-0.5
___ 03:10PM BLOOD Glucose-153* UreaN-19 Creat-0.8 Na-135 
K-3.9 Cl-95* HCO3-28 AnGap-16
___ 03:17PM BLOOD Lactate-2.5*
___ 03:10PM URINE Color-Straw Appear-Clear Sp ___
___ 03:10PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 03:10PM URINE RBC-<1 WBC-<1 Bacteri-FEW Yeast-NONE 
Epi-<1
___ 03:10PM URINE CastHy-2*
___ 03:10PM URINE UCG-NEGATIVE
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
for monitoring and evaluation of her right lower quadrant pain 
and leukocytosis given concern for ovarian torsion. 
.
She underwent a CT, which showed no evidence of appendicitis and 
a right adnexal cystic structure measuring up to 4.7cm; torsion 
could not be excluded. A pelvic ultrasound showed a 
heterogeneous structure in the right adnexa measuring 4.1 x 4.0 
x 4.1 cm without clear visualization of the right ovary, 
possibly suggestive of ovarian torsion. She then underwent MRI, 
which showed a 4.4cm hemorrhagic right ovarian cyst, no evidence 
of torsion, multiple foci concerning for endometriosis, and no 
abscess or ___. Her pain was attributed to the ruptured cyst.
. 
Her pain was controlled with oral percoset, with IV dilaudid for 
breakthrough pain. Her leukocytosis improved over the course of 
admission; she did not receive antibiotics during her admission. 

.
She was maintained on her home medications for her hypertension 
and cardiomyopathy.
. 
By hospital day 2, her pain was controlled with oral pain 
medications, she remained afebrile throughout her 
hospitalization, and her physical exam was reassuring. She was 
discharged home in stable condition with outpatient follow up 
scheduled.
 
Medications on Admission:
ALBUTEROL SULFATE - albuterol sulfate HFA 90 mcg/actuation
aerosol inhaler. ___ puffs(s) by mouth every four (4)  to six 
(6)
hours as needed for cough/wheezing
ALLOPURINOL - allopurinol ___ mg tablet. 1 tablet(s) by mouth
once a day
CARVEDILOL - carvedilol 25 mg tablet. 0.5 (One half) tablet(s) 
by
mouth twice a day
CLOBETASOL - clobetasol 0.05 % topical ointment. 1 Ointment(s)
twice a day
COLCHICINE [COLCRYS] - Colcrys 0.6 mg tablet. 1 tablet(s) by
mouth twice a day
EPINEPHRINE [EPIPEN 2-PAK] - EpiPen 2-Pak 0.3 mg/0.3 mL 
(1:1,000)
injection,auto-injector. use IN CASE OF SEVERE REACTION AND CALL
___ (USE ONLY ONCE)
ERGOCALCIFEROL (VITAMIN D2) - ergocalciferol (vitamin D2) 50,000
unit capsule. 1 capsule(s) by mouth twice weekly
FLUTICASONE [FLOVENT HFA] - Flovent HFA 220 mcg/actuation 
aerosol
inhaler. 2 puffs twice a day
LISINOPRIL - lisinopril 20 mg tablet. 1 tablet(s) by mouth daily
NORETHINDRONE (CONTRACEPTIVE) [NOR-QD] - Nor-QD 0.35 mg tablet.
one tablet(s) by mouth daily
ONDANSETRON HCL - ondansetron HCl 4 mg tablet. 1 tablet(s) by
mouth Every 8 hours as needed for nausea
OXYCODONE-ACETAMINOPHEN - oxycodone-acetaminophen 5 mg-325 mg
tablet. 1 tablet(s) by mouth every six (6) hours as needed for
pain
POTASSIUM CHLORIDE - potassium chloride ER 10 mEq
capsule,extended release. 3 capsule(s) by mouth once a day
PREDNISONE - prednisone 5 mg tablet. 1 Tablet(s) by mouth once a
day take one tab with 10 mg tab total of 15 mg
PREDNISONE - prednisone 10 mg tablet. 1 tablet(s) by mouth once 
a
day
RANITIDINE HCL - ranitidine 150 mg capsule. 1 Capsule(s) by 
mouth
twice a day
SPIRONOLACTONE - spironolactone 50 mg tablet. 1 tablet(s) by
mouth daily
TORSEMIDE - torsemide 20 mg tablet. ___ tablet(s) by mouth daily
titrate to wt change
TRIAMCINOLONE ACETONIDE - triamcinolone acetonide 0.1 % topical
cream. 1 Cream(s) three times a day
 
Medications - OTC
CALCIUM CARBONATE-VITAMIN D3 [CALTRATE-600 PLUS VITAMIN D3] -
Caltrate-600 Plus Vitamin D3 600 mg (1,500 mg)-400 unit tablet. 
1
Tablet(s) by mouth twice a day
MAGNESIUM CHLORIDE [MAG 64] - Mag 64 64 mg tablet,extended
release. take 2 tablets by mouth four times a day
 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q4H:PRN sob 
2. Carvedilol 12.5 mg PO BID 
3. Lisinopril 20 mg PO DAILY 
4. Torsemide 80 mg PO DAILY 
5. Spironolactone 50 mg PO DAILY 
6. norethindrone (contraceptive) 0.35 mg oral DAILY ovulation 
suppression 
7. PredniSONE 15 mg PO DAILY 
8. Ranitidine 150 mg PO DAILY 
9. Senna 8.6 mg PO BID:PRN constipation 
take while using narcotic pain medications 
RX *sennosides [senna] 8.6 mg 1 by mouth twice a day Disp #*50 
Tablet Refills:*0
10. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
do not drink alcohol or drive while taking. do not take more 
than 4000mg acetaminophen in 24 hours. 
RX *oxycodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
every ___ hours Disp #*50 Tablet Refills:*0
11. Docusate Sodium 100 mg PO BID constipation 
take while using narcotic pain medications 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*50 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ruptured ovarian cyst

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service for monitoring of  
your pain. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ 
office with any questions or concerns. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___